US08791123B2
Step A: Preparation of (R)-ethyl 5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate
A mixture of ethyl 5-chloropyrazolo[1,5-a]pyrimidine-3-carboxylate (Preparation B, 2.00 g, 8.86 mmol), (R)-2-(2,5-difluorophenyl)pyrrolidine (Preparation A, 1.62 g, 8.86 mmol), diisopropylethylamine (3.09 mL, 17.7 mmol) and butan-1-ol (2.95 ml, 8.86 mmol) was heated at 100° C. for 15 hours. The reaction mixture was cooled to ambient temperature and was diluted with EtOAc (30 mL) and water (10 mL). Undissolved solid was filtered and washed with Et2O to afford the title compound as a light orange solid (2.13 g). The organic layer was separated from the filtrate, washed with brine (10 mL) and dried over MgSO4. The solution was filtered and concentrated to provide additional solid that was purified by silica chromatography using gradient elution with 50-100% EtOAc/hexanes. This afforded the title compound (0.50 g) as a light yellow solid. The combined yield was 2.63 g, 79.7%. MS (apci) m/z=373.1 (M+H).

reactant | ethyl 5-chloropyrazolo[1,5-a]pyrimidine-3-carboxylate | 8.86 mmol, 2.00 g | ClC1=NC=2N(C=C1)N=CC2C(=O)OCC | C9H8ClN3O2
reactant | (R)-2-(2,5-difluorophenyl)pyrrolidine | 8.86 mmol, 1.62 g | FC1=C(C=C(C=C1)F)[C@@H]1NCCC1 | C10H11F2N
reactant | diisopropylethylamine | 17.7 mmol, 3.09 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | butan-1-ol | 8.86 mmol, 2.95 ml | C(CCC)O | C4H10O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | water | 10 mL | O | H2O
product | (R)-ethyl 5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | 2.13 g | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)OCC | C19H18F2N4O2
